***------------------------------------***
***          VLSI 2021 Lab1            ***
***            multiplexer             ***
***            student ID:111511202    ***
***------------------------------------***

***-----------------------***
***        setting        ***
***-----------------------***
.lib "umc018.l" L18U18V_TT
.TEMP 25
.op
.options post

***-----------------------***
***      parameters       ***
***-----------------------***
.global VDD GND
.param supply=1.8v
.param load=10f

.param wp=0.6u
.param wn=0.24u

***-----------------------***
***       simulation      ***
***-----------------------***
.tran 0.1n 60n

***-----------------------***
***      measurements     ***
***-----------------------***
.meas tran AVG_Ckt_Pwr AVG power
.meas tran avg_power avg power from=0.1ns to=40ns
.meas tran Iavg avg I(Vd) from=0.1ns to=40ns
.meas Pavg param='Iavg*supply'
.meas tran Imax max I(Vd) from=0.1ns to=40ns
.meas Pmax param='abs(Imax)*supply'

.meas tran tp1 trig v(A) val='supply/2' rise=1
+targ v(y) val='supply/2' rise=1
.meas tran tp2 trig v(B) val='supply/2' fall=1
+targ v(y) val='supply/2' fall=1
.meas tran tp3 trig v(A) val='supply/2' rise=3
+targ v(y) val='supply/2' rise=2
.meas tran tp4 trig v(A) val='supply/2' fall=3
+targ v(y) val='supply/2' fall=2
.meas tran tp5 trig v(A) val='supply/2' rise=4
+targ v(y) val='supply/2' rise=3
.meas tran tp6 trig v(A) val='supply/2' fall=4
+targ v(y) val='supply/2' fall=3

.meas tran tr1 trig v(y) val='supply*0.1' rise=1
+targ v(y) val='supply*0.9' rise=1
.meas tran tr2 trig v(y) val='supply*0.1' rise=2
+targ v(y) val='supply*0.9' rise=2
.meas tran tr3 trig v(y) val='supply*0.1' rise=3
+targ v(y) val='supply*0.9' rise=3

.meas tran tf1 trig v(y) val='supply*0.9' fall=1
+targ v(y) val='supply*0.1' fall=1
.meas tran tf2 trig v(y) val='supply*0.9' fall=2
+targ v(y) val='supply*0.1' fall=2
.meas tran tf3 trig v(y) val='supply*0.9' fall=3
+targ v(y) val='supply*0.1' fall=3

***-----------------------***
***      power/input      ***
***-----------------------***
VDD VDD GND supply
VA A GND pulse(0 supply 1ns 0.1ns 0.1ns 1.9ns 4ns)
VB B GND pulse(0 supply 1ns 0.1ns 0.1ns 3.9ns 8ns)
VSEL SEL GND pulse(0 supply 1ns 0.1ns 0.1ns 7.9ns 16ns)
VEN EN GND pulse(0 supply 1ns 0.1ns 0.1ns 15.9ns 32ns)

***-----------------------***
***        circuit        ***
***-----------------------***
XMUX A B SEL EN Y MUX
Cload y GND load

***-----------------------***
***      sub-circuit      ***
***-----------------------***
.subckt INV IN1 OUT1
mp OUT1 IN1 VDD VDD P_18_G2 l=0.18u w=wp
mn OUT1 IN1 GND GND N_18_G2 l=0.18u w=wn
.ends

.subckt TRI IN2 SEL1 SEL2 OUT2
mp1 1  IN2 VDD VDD P_18_G2 l=0.18u w=wp
mp2 OUT2 SEL2 1 VDD P_18_G2 l=0.18u w=wp
mn1 OUT2 SEL1 2 GND N_18_G2 l=0.18u w=wn
mn2 2 IN2 GND GND N_18_G2 l=0.18u w=wn
.ends

.subckt MUX A B SEL EN Y
XINV1 SEL SEL2 INV
XINV11 EN EN2 INV
XTRI1 A SEL2 SEL OUT1 TRI
XTRI2 B SEL SEL2 OUT1 TRI
XINV2 OUT1 OUT2 INV
XINV3 OUT2 OUT3 INV
XTRI3 OUT3 EN EN2 Y TRI
.ends

.alter
.param wp=1.2u
.param load=10f

.alter
.param wp=2.4u
.param load=10f

.alter
.param load=20f
.param wp=0.6u

.alter
.param load=20f
.param wp=1.2u

.alter
.param load=20f
.param wp=2.4u

.alter
.param load=30f
.param wp=0.6u

.alter
.param load=30f
.param wp=1.2u

.alter
.param load=30f
.param wp=2.4u

.end
